US06677324B1
k) 11β-Fluoro-7α-{5-[N-methyl-N-3-(4,4,5,5,5-penta-fluoropentylthio)propylamino]pentyl}-3-(tetrahydro-pyran-2-yloxy)oestra-1,3,5(10)-trien-17-one
2.0 g of 11β-fluoro-3-(tetrahydropyran-2-yloxy)-7α-(5-p-toluenesulphonyloxypentyl)oestra-1,3,5(10)-trien-17-one in 44 ml of DMF are stirred at 80° C. with 1.2 g of methyl-[3-(4,4,5,5,5-pentafluoropentylthio)propyl]-amine. After 6.5 h, the reaction mixture is treated with water. The mixture is extracted with ethyl acetate, washed with saturated sodium chloride solution and concentrated in vacuo. After chromatographing the crude product on silica gel using a methylene chloride-methanol gradient, 1.3 g of 11-fluoro-7α-{5-[N-methyl-N-3-(4,4,5,5,5-pentafluoropentylthio)propylamino]-pentyl}-3-(tetrahydropyran-2-yloxy)oestra-1,3,5(10)-trien-17-one are obtained as an oil.

reactant | 11β-fluoro-3-(tetrahydropyran-2-yloxy)-7α-(5-p-toluenesulphonyloxypentyl)oestra-1,3,5(10)-trien-17-one | 2.0 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCOS(=O)(=O)C1=CC=C(C=C1)C)OC1OCCCC1 | C35H45FO6S
reactant | methyl-[3-(4,4,5,5,5-pentafluoropentylthio)propyl]-amine | 1.2 g | CNCCCSCCCC(C(F)(F)F)(F)F | C9H16F5NS
reactant | water | O | H2O
solvent | DMF | 44 ml | CN(C)C=O | C3H7NO
product | 11β-Fluoro-7α-{5-[N-methyl-N-3-(4,4,5,5,5-penta-fluoropentylthio)propylamino]pentyl}-3-(tetrahydro-pyran-2-yloxy)oestra-1,3,5(10)-trien-17-one | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCSCCCC(C(F)(F)F)(F)F)C)OC1OCCCC1 | C37H53F6NO3S
